.subckt one_x1 vdd vss one
Mnpass vss one zero vss sky130_fd_pr__nfet_01v8__model l=1.5e-07 w=1.415e-06
Mppass one zero vdd vdd sky130_fd_pr__pfet_01v8__model l=1.5e-07 w=1.775e-06
.ends one_x1
